US08193199B2
3-(Azidomethyl)-8-chloro-2-(5-fluoro-2-methoxyphenyl)quinoline
To a stirred solution of 8-chloro-2-(5-fluoro-2-methoxyphenyl)quinoline-3-carbaldehyde (385.4 mg, 1.221 mmol) in THF (6.0 mL) was added sodium borohydride (1.831 mmol) at rt. The solution was stirred 1 hour then diluted with water, and extracted with EtOAc to provide a crude solid after solvent removal, which was used without further purification. To the crude alcohol in CHCl3 (6 mL) was added thionyl chloride (0.445 mL, 6.103 mmol) at r.t. and stirred overnight. After 14 h the solvents were removed (TLC indicates complete.) The solid was dissolved in DMF (6 mL) then sodium azide (2.441 mmol) was added at once, and stirred 1 hour, poured into water and extracted EtOAc to give a crude material: 373.3 mg Chromatography, gradient 89/9/1. 1H NMR (400 MHz, choroform-d) δ ppm 8.28 (1H, s), 7.86 (1H, dd, J=7.4, 1.4 Hz), 7.83 (1H, dd, J=8.2, 1.4 Hz), 7.51 (1H, dd, J=8.1, 7.5 Hz), 7.22 (1H, dd, J=8.2, 3.1 Hz), 7.13-7.19 (1H, m), 6.95 (1H, dd, J=9.0, 4.3 Hz), 4.48 (2H, s), 3.76 (3H, s) Mass Spectrum (ESI) m/e=343.1 (M+1).

reactant | 8-chloro-2-(5-fluoro-2-methoxyphenyl)quinoline-3-carbaldehyde | 1.221 mmol, 385.4 mg | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC(=C1)F)OC)C=O | C17H11ClFNO2
reactant | sodium borohydride | 1.831 mmol | [BH4-].[Na+]
reactant | thionyl chloride | 6.103 mmol, 0.445 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium azide | 2.441 mmol | [N-]=[N+]=[N-].[Na+]
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | CHCl3 | 6 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(Azidomethyl)-8-chloro-2-(5-fluoro-2-methoxyphenyl)quinoline | N(=[N+]=[N-])CC=1C(=NC2=C(C=CC=C2C1)Cl)C1=C(C=CC(=C1)F)OC | C17H12ClFN4O
